US07449475B2
2-[[(2R)-2-Methyloxiranyl]methoxy]-1H-isoindole-1,3(2H)-dione
Prepared from N-hydroxyphthalimide and [(2R)-2-methyloxiran-2-yl]methyl 3-nitrobenzenesulfonate (Chen, J.; Shum, W., Tetrahedron Letters, 1993, 34(48), 7663-6) by the method of Example 93 Step I.

reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | [(2R)-2-methyloxiran-2-yl]methyl 3-nitrobenzenesulfonate | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@@]1(OC1)C | C10H11NO6S
product | 2-[[(2R)-2-Methyloxiranyl]methoxy]-1H-isoindole-1,3(2H)-dione | C[C@]1(OC1)CON1C(C2=CC=CC=C2C1=O)=O | C12H11NO4
